US09447091B2
a) 1-(3,5-Dinitro-phenyl)-1H-pyrrole
A solution of 3,5-dinitroaniline (10 g, 54.644 mmol) and 2,5-dimethoxytetrahydrofuran (18.05 g, 136.61 mmol, 2.5 eq.) in acetic acid (122 ml) was heated to 100° C. for 16 h. Completion of reaction was monitored by TLC. Then the mixture was brought to RT and poured into ice-cold water. The precipitate was filtered, washed with water (150 ml) and dried to give the product in 54% yield (8.2 g). LC-MS (ESI): Calculated mass: 233.18; Observed mass: 233.04 [M+H]+ (rt: 1.667 min).

reactant | 3,5-dinitroaniline | 54.644 mmol, 10 g | [N+](=O)([O-])C=1C=C(N)C=C(C1)[N+](=O)[O-] | C6H5N3O4
reactant | 2,5-dimethoxytetrahydrofuran | 136.61 mmol, 18.05 g, 2.5 eq. | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 122 ml | C(C)(=O)O | C2H4O2
product | 1-(3,5-Dinitro-phenyl)-1H-pyrrole | 54% yield | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])N1C=CC=C1 | C10H7N3O4
